US07378448B2
Combine [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (1.0 g, 4.2 mmol), 4-fluoronitrobenzene (0.6 g, 4.2 mmol), cesium carbonate (2.7 g, 8.4 mmol), and N,N-dimethylformamide (35 mL), stir and heat at 100° C. for 18 hours. Cool to room temperature and evaporate on a rotary evaporator to yield the crude product (9.5 g). The crude product is purified by flash column chromatography on silica gel eluting with (10% conc. ammonium hydroxide in ethanol) and chloroform to yield {2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (1.3 g): 1H NMR (CDCl3, 300.00 MHz): 8.23 (d, 2H, J=9.2 Hz), 7.32-7.25 (m, 2H), 7.10-7.00 (m, 4H), 4.63 (s, 1H), 3.43 (m, 2H), 2.86 (t, 2H, J=7.0 Hz), 1.48 (s, 9H). Step 3 {2-[4-(4-Amino-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester

reactant | [2-(4-Hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 4.2 mmol, 1.0 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | 4-fluoronitrobenzene | 4.2 mmol, 0.6 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cesium carbonate | 8.4 mmol, 2.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | {2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 1.3 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H22N2O5
